US07626042B2
(1) 5-Chloro-2-hydroxy-N-[3,5-bis(trifluoromethyl)phenyl]benzamide.
A mixture of 5-chlorosalicylic acid(6.90 g, 40 mmol), 3,5-bis(trifluoromethyl)aniline(9.16 g, 40 mmol), phosphorus trichloride(1.74 mL, 20 mmol) and toluene(80 mL) was refluxed for 3 hours under argon atmosphere. After the reaction mixture was cooled to room temperature, it was diluted with ethyl acetate (240 mL). After the ethyl acetate layer was washed successively with water and brine, dried over anhydrous magnesium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=4:1) to give the title compound (13.12 g, 85.5%) as a light yellow solid.

reactant | 5-chlorosalicylic acid | 40 mmol, 6.90 g | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 3,5-bis(trifluoromethyl)aniline | 40 mmol, 9.16 g | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
reactant | phosphorus trichloride | 20 mmol, 1.74 mL | P(Cl)(Cl)Cl | Cl3P
reactant | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 240 mL | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-2-hydroxy-N-[3,5-bis(trifluoromethyl)phenyl]benzamide | 13.12 g, 85.5% | ClC=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C1)O | C15H8ClF6NO2
